* NGSPICE file created from hx_loop_capacitor.ext - technology: ihp-sg13g2

.subckt hx_loop_capacitor SIGP VSS
X0 VSS.t10 SIGP VSS.t12 VSS.t11 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X1 VSS.t30 SIGP VSS.t28 VSS.t13 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X2 VSS.t6 SIGP VSS.t8 VSS.t7 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X3 VSS.t32 SIGP VSS.t30 VSS.t15 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X4 VSS.t2 SIGP VSS.t1 VSS.t0 sg13_lv_nmos ad=2.38p pd=14.68u as=0 ps=0 w=7u l=7u
X5 VSS.t28 SIGP VSS.t26 VSS.t11 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X6 VSS.t1 SIGP VSS.t4 VSS.t3 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X7 VSS.t8 SIGP VSS.t10 VSS.t9 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X8 VSS.t26 SIGP VSS.t24 VSS.t9 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X9 VSS.t14 SIGP VSS.t16 VSS.t15 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X10 VSS.t18 SIGP VSS.t17 VSS.t0 sg13_lv_nmos ad=2.38p pd=14.68u as=0 ps=0 w=7u l=7u
X11 VSS.t22 SIGP VSS.t20 VSS.t5 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X12 VSS.t24 SIGP VSS.t22 VSS.t7 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X13 VSS.t12 SIGP VSS.t14 VSS.t13 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X14 VSS.t20 SIGP VSS.t18 VSS.t3 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X15 VSS.t4 SIGP VSS.t6 VSS.t5 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
R0 VSS.t5 VSS.t0 15.9929
R1 VSS.t13 VSS.t0 20.5247
R2 VSS.t3 VSS.t0 19.6194
R3 VSS.t0 VSS.t9 19.6195
R4 VSS.t7 VSS.t0 15.9922
R5 VSS.n2 VSS.t0 17.0005
R6 VSS.t0 VSS.t15 12.0664
R7 VSS.t0 VSS.n1 8.47732
R8 VSS.t16 VSS.n0 0.275893
R9 VSS.n3 VSS.t17 1.2096
R10 VSS.n4 VSS.n3 1.19657
R11 VSS.t20 VSS.t22 1.18726
R12 VSS.t8 VSS.t6 1.18726
R13 VSS.t12 VSS.t10 1.18188
R14 VSS.t6 VSS.t4 1.17786
R15 VSS.t22 VSS.t24 1.17786
R16 VSS.n0 VSS.t14 0.0898708
R17 VSS.t1 VSS.t2 1.17241
R18 VSS.t26 VSS.t28 1.17241
R19 VSS.t17 VSS.t18 1.16092
R20 VSS.t30 VSS.t32 1.15741
R21 VSS.t28 VSS.t30 1.13252
R22 VSS.t12 VSS.t14 1.13154
R23 VSS.t18 VSS.t20 1.12501
R24 VSS.t24 VSS.t26 1.11752
R25 VSS.t4 VSS.t1 1.11752
R26 VSS.t10 VSS.t8 1.10748
R27 VSS.t16 VSS 0.39266
R28 VSS.t22 VSS.t0 0.150099
R29 VSS.t6 VSS.t0 0.150099
R30 VSS.t30 VSS.t0 0.139355
R31 VSS.t26 VSS.t0 0.139355
R32 VSS.t1 VSS.t0 0.139355
R33 VSS.t10 VSS.t0 0.139321
R34 VSS.n0 VSS.t0 0.031147
R35 VSS.t18 VSS.t0 0.119905
R36 VSS.n3 VSS.t0 0.110075
R37 VSS.n4 VSS.n1 0.0846176
R38 VSS.t2 VSS.n1 0.0708676
R39 VSS.n2 VSS.t16 0.058
R40 VSS.t17 VSS 0.05425
R41 VSS VSS.n4 0.05425
R42 VSS.t32 VSS.n2 0.038
R43 VSS.t11 VSS.t0 9.64728
C0 SIGP VSS 96.6152f
.ends
